US06949577B2
1-Isopentyl-1H-imidazole-4-carboxaldehyde
A mixture of sodium hydride (20 g, 60% dispersion in mineral oil, 0.5 mol) in tetrahydrofuran (300 ml) was cooled to 0° C., and 2-imidazolecarboxaldehyde (45 g, 0.47 mol) was added portionwise over 30 minutes. Once addition was complete, the reaction was stirred at 0° C. for 30 minutes, then allowed to warm to room temperature. 1-Bromo-3-methylbutane (60.8 ml, 0.5 mol) and 18-crown-6 (140 mg) were added, and the reaction was heated at reflux for 18 hours. The cooled reaction was quenched by the addition of water (400 ml), and the resulting mixture extracted with dichloromethane (800 ml in total). The combined organic extracts were dried (MgSO4) and evaporated under reduced pressure. The residual orange oil was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:pentane:methanol (40:60:0 to 100:0:0 to 98:0:2) to afford the title compound, 19.6 g.

reactant | sodium hydride | 0.5 mol, 20 g | [H-].[Na+]
reactant | 2-imidazolecarboxaldehyde | 0.47 mol, 45 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | 1-Bromo-3-methylbutane | 0.5 mol, 60.8 ml | BrCCC(C)C | C5H11Br
reactant | 18-crown-6 | 140 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-Isopentyl-1H-imidazole-4-carboxaldehyde | C(CC(C)C)N1C=NC(=C1)C=O | C9H14N2O
